US07427613B2
(2-p-Tolyloxyethyl)methylamine
Synthesized according to typical procedures C and D from 2-p-tolyloxyacetic acid and methylamine.

reactant | 2-p-tolyloxyacetic acid | C1(=CC=C(C=C1)OCC(=O)O)C | C9H10O3
reactant | methylamine | CN | CH5N
product | (2-p-Tolyloxyethyl)methylamine | C1(=CC=C(C=C1)OCCNC)C | C10H15NO
